US04059600
6 g of 3,7,11-trimethyl-2-cis/trans, 4-cis/trans-dodecatrienoic acid ethyl ester are dissolved in 75 ml of methylene chloride and treated portionwise with stirring at 0° C with 5 g of m-chloroperbenzoic acid (ca 80 percent). The mixture is subsequently stirred for a further 11/2 hours at 0° C. The reaction mixture is poured onto ice and 1-N aqueous sodium hydroxide and extracted with diethyl ether. The ether phase is washed neutral, dried and evaporated. The product is chromatographed on the 50-fold amount of Kieselgel (eluant: hexane 90 percent by volume/ethyl acetate 20 percent by volume). 10,11-Epoxy-3,7,11-trimethyl-2-cis/trans, 4-cis/trans-dodecadienoic acid ethyl ester is obtained as a colorless oil of boiling point about 135° C/0.01 mmHg (bulb:tube); nD20 = 1.4907.

reactant | trans-dodecatrienoic acid ethyl ester | C(C)OC(\C=C\C=CC=CCCCCC)=O | C14H22O2
reactant | m-chloroperbenzoic acid | 5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | trans-dodecadienoic acid ethyl ester | C(C)OC(\C=C\C=CCCCCCCC)=O | C14H24O2
